US07105563B2
A solution of N-(dimethylethoxycarbonyl)pyrrole-2-carboxaldehyde (10 g, 50 mmol) in THF (500 mL) at −30° C. under nitrogen was added dropwise to 3-[bis(trimethylsilyl)amino]phenylmagnesium chloride (55 mL of a 1M solution in THF, 55 mmol). After addition the reaction mixture was gradually warmed up and stirred at 0° C. for 1 hour, then at ambient temperature for 15 minutes. The reaction mixture was poured into ice water, and stirred for 30 minutes. The reaction mixture was extracted with ethyl ether (1 L). The combined organic layers were dried (Na2SO4) and concentrated. Chromatography on SiO2 (700 g) using 1:1 hexane/ethyl acetate afforded [N-(dimethylethoxycarbonyl)pyrrol-2-yl](3-aminophenyl)methanol (11.2 g).

reactant | N-(dimethylethoxycarbonyl)pyrrole-2-carboxaldehyde | 50 mmol, 10 g | CC(C)(OC(=O)N1C(=CC=C1)C=O)C | C10H13NO3
reactant | 3-[bis(trimethylsilyl)amino]phenylmagnesium chloride | C[Si](C)(C)N(C=1C=C(C=CC1)[Mg]Cl)[Si](C)(C)C
solvent | THF | 500 mL | C1CCOC1 | C4H8O
product | [N-(dimethylethoxycarbonyl)pyrrol-2-yl](3-aminophenyl)methanol | 11.2 g | CC(C)(OC(=O)N1C(=CC=C1)C(O)C1=CC(=CC=C1)N)C | C16H20N2O3
